US08609794B2
To a solution of 116.36 g (610.37 mmol) of tosyl chloride in 200 mL of anhydrous pyridine add 19.26 g (253.09 mmol) of 1,3-propanediol in 50 mL of anhydrous pyridine dropwise over the period of two hours at 0-10° C. Stir the reaction mixture for an additional four hours, then pour it into 500 mL of ice cold water. Collect the white precipitate that forms by filtration, wash filter cake with water, dilute aqueous sulfuric acid (10 wt. %), dilute aqueous sodium carbonate (1M), and again with water. Crystallize the wet product from acetone to afford 80.68 g (83%) of 1,3-propanediol bis(4-methylbenzenesulfonate) as off white powder. 1H NMR (400 MHz, CDCl3) δ 7.77-7.69 (m, 4H), 7.37-7.30 (m, 4H), 4.05 (t, J=6.0 Hz, 4H), 2.44 (s, 6H), 1.99 (p, J=6.0 Hz, 2H). 13C{1H} NMR (101 MHz, CDCl3) δ 145.01, 132.65, 129.92, 127.84, 65.83, 28.67, 21.61. MS (m/e): 408 (M+Na).

reactant | tosyl chloride | 610.37 mmol, 116.36 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 1,3-propanediol | 253.09 mmol, 19.26 g | C(CCO)O | C3H8O2
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 1,3-propanediol bis(4-methylbenzenesulfonate) | 80.68 g, 83% | CC1=CC=C(C=C1)S(=O)(=O)OCCCOS(=O)(=O)C1=CC=C(C=C1)C | C17H20O6S2
